US04863920
3.0 g (10.9 mmol) of 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde and 5.7 g (21.7 mmol) of triphenylphosphine were dissolved in 80 ml of methylene chloride at room temperature. Thereafter, the mixture was cooled with an ice-bath to 0° and at this temperature there was added dropwise thereto a solution of 4.0 g (12.0 mmol) of tetrabromomethane in 15 ml of methylene chloride. Thereafter, the mixture was stirred at room temperature for a further 6 hours and subsequently evaporated in a vacuum. The residue was suspended in ethyl acetate and heated under reflux for 30 minutes, cooled to 10° while stirring, suction filtered and dried. The crystalline crude product was recrystallized from alcohol and there was obtained 7-chloro-3-(2,2-dibromovinyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrobromide as white crystals of melting point 215°-217°.

reactant | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde | 10.9 mmol, 3.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=O)C)=O | C13H10ClN3O2
reactant | triphenylphosphine | 21.7 mmol, 5.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 12.0 mmol, 4.0 g | BrC(Br)(Br)Br | CBr4
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 7-chloro-3-(2,2-dibromovinyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrobromide | Br.ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=C(Br)Br)C)=O | InChI=1S/C14H10Br2ClN3O.BrH/c1-19-6-11-9(5-12(15)16)18-7-20(11)10-4-2-3-8(17)13(10)14(19)21;/h2-5,7H,6H2,1H3;1H
